US05693379
In 300 ml of ethyl acetate was dissolved 15.0 g (0.033 mol) of [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl]3,5-dinitrobenzoate, and 1.50 g of 5% palladium-carbon was then added thereto and catalytic reduction is carried out at ordinary temperature under atmospheric pressure. After the completion of the reaction, the catalyst was removed by filtration and the solvent was distilled off under reduced pressure to obtain a crystal. The thus obtained crystal was recrystallized from n-heptane/ethyl acetate twice to obtain 11.1 g (0.028 mol) of [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl]3,5-diaminobenzoate. The melting point of this compound was in the range of 91.5° to 92.4° C.

reactant | [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl]3,5-dinitrobenzoate | 0.033 mol, 15.0 g | C(C)[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCOC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=C1 | C24H28N2O7
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 1.50 g | [C].[Pd]
product | [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl]3,5-diaminobenzoate | 0.028 mol, 11.1 g | C(C)[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCOC(C2=CC(=CC(=C2)N)N)=O)C=C1 | C24H32N2O3
